US07161032B2
In water (10 ml) was dissolved 0.52 g (3.8 mmol) of potassium carbonate and 1.73 g (6.7 mmol) of 2-(benzyloxycarbonylamino)propane-1-sulfinic acid was added thereto, after which 1.07 g (6.7 mmol) of bromine was added dropwise thereto (water was properly added because crystals were precipitated during the dropwise addition to make stirring difficult). After stirring at room temperature for 30 minutes, the crystals were filtered and then washed with water to obtain 2.30 g (quantitative) of 2-(benzyloxycarbonylamino)propane-1-sulfonyl bromide.

reactant | potassium carbonate | 3.8 mmol, 0.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(benzyloxycarbonylamino)propane-1-sulfinic acid | 6.7 mmol, 1.73 g | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)O)C | C11H15NO4S
reactant | bromine | 6.7 mmol, 1.07 g | BrBr | Br2
solvent | water | 10 ml | O | H2O
product | 2-(benzyloxycarbonylamino)propane-1-sulfonyl bromide | 2.30 g | C(C1=CC=CC=C1)OC(=O)NC(CS(=O)(=O)Br)C | C11H14BrNO4S
